US06057311
d. 9-tert-butyloxycarbonylmethyl-2-(3-methylphenyl)carbamyl-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole
A solution of 9-tert-butyloxycarbonylmethyl-1,2,3,4-tetrahydro-9H-pyrido [3,4-b]indole (3.56 g, 12.0 mmol) and 3-methylphenylisocyanate (1.60 ml, 12.4 mmol) was stirred in dioxan (40 ml) at room temperature for 4 hours. Evaporation of the solvent and chromatography on silica gel with ethyl acetate-hexane (1:3) as eluant gave the product. (3.29 g, 65%).

reactant | 9-tert-butyloxycarbonylmethyl-1,2,3,4-tetrahydro-9H-pyrido [3,4-b]indole | 12.0 mmol, 3.56 g | C(C)(C)(C)OC(=O)CN1C2=C(C3=CC=CC=C13)CCNC2 | C17H22N2O2
reactant | 3-methylphenylisocyanate | 12.4 mmol, 1.60 ml | CC=1C=C(C=CC1)N=C=O | C8H7NO
solvent | dioxan | 40 ml | O1CCOCC1 | C4H8O2
product | 9-tert-butyloxycarbonylmethyl-2-(3-methylphenyl)carbamyl-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole | C(C)(C)(C)OC(=O)CN1C2=C(C3=CC=CC=C13)CCN(C2)C(NC2=CC(=CC=C2)C)=O | C25H29N3O3
